US08124606B2
Tert-butyl 2-(pyrrolidin-2-yl)acetate (1.00 g, 5.40 mmol) was added to a solution of methyl 6-chloro-5-nitronicotinate (1.169 g, 5.40 mmol) in THF (Volume: 10 ml). The reaction mixture was stirred at rt for 1 h and K2CO3 (0.760 g, 5.50 mmol) was added. The reaction mixture was stirred for 2 h and triethylamine (0.379 ml, 2.70 mmol) was added. The mixture was stirred for 1 h, filtered and concentrated in vacuo. Flash column chromatography on silica gel (120 g SiO2, hexanes:ethyl acetate 9:1) afforded methyl 6-(2-(2-tert-butoxy-2-oxoethyl)pyrrolidin-1-yl)-5-nitronicotinate (1.79 g, 4.90 mmol, 91% yield) as a yellow oil. [M+H] calc'd for C17H23N3O6, 365; found, 365.

reactant | Tert-butyl 2-(pyrrolidin-2-yl)acetate | 5.40 mmol, 1.00 g | N1C(CCC1)CC(=O)OC(C)(C)C | C10H19NO2
reactant | methyl 6-chloro-5-nitronicotinate | 5.40 mmol, 1.169 g | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
reactant | K2CO3 | 5.50 mmol, 0.760 g | C(=O)([O-])[O-].[K+].[K+]
reactant | triethylamine | 2.70 mmol, 0.379 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 6-(2-(2-tert-butoxy-2-oxoethyl)pyrrolidin-1-yl)-5-nitronicotinate | 4.90 mmol, 1.79 g, 91% yield | C(C)(C)(C)OC(CC1N(CCC1)C1=NC=C(C(=O)OC)C=C1[N+](=O)[O-])=O | C17H23N3O6
